US04739050
3,4-Dihydro-2,4-dimethyl-2-(4-hydroxyphenyl)-3-oxo-2H-1,4-benzothiazine (compound No. 13)
To a stirred solution of 3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzothiazine (4.8 g) in methylene chloride (25 ml), sulfuryl chloride (3.5 g) is added under ice-cooling. The mixture is stirred for 30 minutes, and added into a solution of phenol (2.4 g) and aluminum chloride (3.3 g) in methylene chloride (20 ml) with stirring under ice-cooling. The mixture is stirred for 1 hour under ice-cooling, and washed with water, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution. The solution is dried over anhydrous sodium sulfate and concentrated in vacuo. A mixture of benzene and n-hexane (1:1) is added to the residue and the separated crystals are collected by filtration to give 6.4 g (90.2%) of the titled compound.

reactant | 3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzothiazine | 4.8 g | CC1SC2=C(N(C1=O)C)C=CC=C2 | C10H11NOS
reactant | sulfuryl chloride | 3.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | phenol | 2.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | aluminum chloride | 3.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Dihydro-2,4-dimethyl-2-(4-hydroxyphenyl)-3-oxo-2H-1,4-benzothiazine | 6.4 g, 90.2% | CC1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)O | C16H15NO2S
